two_source_bridge - fault test
V1 p1 0 DC 15
V2 p2 0 DC 10
R1 p1 mid1 99.6335
C3 mid1 0 1.17e-06
R2 p2 mid2 201.200553
R4 mid2 0 246.662648
R5 mid1 mid2 76.099796
.op
.control
run
print v(mid1) v(mid2) v(p1) v(p2)
print @r1[i] @r2[i] @r4[i] @r5[i]
.endc
.end
